US07169926B1
In a 100 mL round bottom flask, 3-benzyloxycarbonylamino-cyclohexanecarboxylic acid (0.53 g, 1.96 mmol), TEA (0.44 g, 4.31 mmol), and HOBt (0.53 g, 3.92 mmol) were added sequentially to a solution of 3,4-diamino-1-ethyl-1H-pyridin-2-one (0.30 g, 1.96 mmol) in DMF (15 mL) at room temperature. The solution was then cooled to 0° C., EDCI (0.75 g, 3.92 mmol) was added, and the reaction mixture was allowed to stir, with warming to room temperature. After stirring for 17 h, the reaction mixture was diluted with water (10 mL) and extracted with CH2Cl2. The combined extracts were dried with MgSO4, and concentrated. The solid was rinsed with Et2O to give [3-(5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (0.68 g, 84% yield). The intermediate amide (0.43 g, 1.04 mmol) was dissolved in glacial acetic acid (6.26 g, 104.2 mmol) and heated at 120° C. for 2 days. After cooling to room temperature, the solvent was removed in vacuo and the crude product was purified by flash chromatography eluting with 3% MeOH in CH2Cl2 to give [3-(5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl)-cyclohexyl]-carbamic acid benzyl ester (0.22 g, 54% yield). 1H-NMR (DMSO): δ 7.35 (m, 6H), 6.53 (m, 1H), 5.01 (s, 2H), 3.99 (m, 2H), 3.43 (m, 1H), 2.86 (m, 1H), 2.07 (m, 1H), 1.83 (m, 3H), 1.42 (m, 3H), 1.20 (m, 3H), 1.17 (m, 1H). MS: calculated for C22H26N4O3+H 395.2; found: 395.4.

reactant | 3-benzyloxycarbonylamino-cyclohexanecarboxylic acid | 1.96 mmol, 0.53 g | C(C1=CC=CC=C1)OC(=O)NC1CC(CCC1)C(=O)O | C15H19NO4
reactant | HOBt | 3.92 mmol, 0.53 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3,4-diamino-1-ethyl-1H-pyridin-2-one | 1.96 mmol, 0.30 g | NC=1C(N(C=CC1N)CC)=O | C7H11N3O
reactant | EDCI | 3.92 mmol, 0.75 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | [3-(5-ethyl-4-oxo-4,5-dihydro-3H-imidazo[4,5-c]pyridin-2-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.68 g, 84% yield | C(C1=CC=CC=C1)OC(NC1CC(CCC1)C1=NC2=C(C(N(C=C2)CC)=O)N1)=O | C22H26N4O3
